US07276502B2
1-Benzothiazol-2-yl-ethanone
Butyllithium (10.2 mL, 16.3 mmol, 1.6 M, 1.1 Eq) was added dropwise to a stirred solution of benzothiazole (1.6 mL, 14.8 mmol, 1.0 Eq) in anhydrous THF (15 mL) at −78° C. under nitrogen. The resultant solution was stirred at −78° C. for one hour. N-Methoxy-N-methylacetamide (1.7 mL, 16.3 mmol, 1.1 Eq) was added in one portion and the reaction stirred at −78° C. for 3 hours. The resultant solution was allowed to warm to room temperature overnight. The reaction was quenched by the addition of 1M HCl (10 mL) and extracted with ethyl acetate (3×15 mL). The combined organic extracts were dried over solid MgSO4 and filtered. The filtrate was concentrated under reduced pressure and purified by column chromatography (10% ethyl acetate in hexanes) to give the title compound as a yellow solid (1.0 g, 39% yield): 1H NMR (400 Mhz, CDCl3) δ 2.85 (3H, s), 7.54-7.62 (2H, m), 8.01 (1H, d), 8.21 (1H, d); MS: ES+ 178.0 (100%).

reactant | Butyllithium | 16.3 mmol, 1.6 M, 10.2 mL, 1.1 Eq | C(CCC)[Li]
reactant | benzothiazole | 14.8 mmol, 1.6 mL, 1.0 Eq | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | N-Methoxy-N-methylacetamide | 16.3 mmol, 1.7 mL, 1.1 Eq | CON(C(C)=O)C | C4H9NO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-Benzothiazol-2-yl-ethanone | 1.0 g, 39% yield | S1C(=NC2=C1C=CC=C2)C(C)=O | C9H7NOS
